US07541357B2
A mixture of 4-bromothiophenol (5.0 g, 26.4 mmol), 2,3-dichloro-1-propene (2.6 g, 23.8 mmol) and potassium carbonate (4.4 g, 31.7 mmol) in acetone (20 ml) was stirred at 55° C. for 6 hours. After cooling to room temperature, acetone was removed under vacuum and the residue was taken into water and extracted with ethyl acetate twice. The combined organic layers were washed with 1 M sodium hydroxide, water and brine, dried over anhydrous sodium sulfate, filtered and concentrated under vacuum. Diethylaniline (30 ml) was added to the residue and the resulting mixture was stirred at 185° C. for 15 hours. Ethyl acetate was added to the cooled mixture and diethylaniline was removed by washing with 1 M HCl four times. The organic layer was dried over sodium carbonate to give 5-bromo-2-methylbenzothiophene (5.3 g, 88%, 95.1% AUC GC): 1H NMR (300 MHz, CDCl3) δ 7.70 (s, 1H), 7.52 (d, J=8.7 Hz, 1H), 7.26 (dd, J=8.7, 1.8 Hz, 1H), 6.83 (s, 1H), 2.51 (s, 3H).

reactant | 4-bromothiophenol | 26.4 mmol, 5.0 g | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | 2,3-dichloro-1-propene | 23.8 mmol, 2.6 g | ClC(=C)CCl | C3H4Cl2
reactant | potassium carbonate | 31.7 mmol, 4.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 5-bromo-2-methylbenzothiophene | 5.3 g | BrC=1C=CC2=C(C=C(S2)C)C1 | C9H7BrS
